Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Maroon stool.
 
Major Surgical or Invasive Procedure:
colonoscopy

 
History of Present Illness:
___ with h/o prostate ca s/p XRT who p/w maroon stools. ___ yo M 
with hx prostate ca s/p radiation ___ years ago with maroon color 
stool x 4 BM (approx ___ cup each time). He felt lightheaded 
with the rectal bleeding. He felt totally normal prior to this. 
He notes abdominal pressure but no pain, no nausea or vomitting. 
Very little stool with each bowel movement. He has never had 
this before. No fevers or chills prior to arrival in Ed, no 
rigors in ED. He denies travel or known ill contacts but was at 
2 holiday parties the prior 2 nights eating unusual foods 
(pot-luck style) but does not know if anyone else from either 
party was also sick. He Denies Ha, visual changes, sore throat, 
nasal drainage, cough, sob, cp, dysuria, hematuria, rash, 
myalgias, arthralgias. He does note left hip bursa steroid 
injection 1 week ago with good effect.

In the ED: VS: 99.3->101.3 84 143/57 18 99% on RA. He received 
1L NS, pantoprazole 40mg iv. He had negative NG lavage and 
anoscopy that showed maroon stool. GI was called and will follow 
while in house. After fever he was given 1gm tylenol.

ROS: 10 point review of systems negative except as noted above. 
 
Past Medical History:
cervical stenosis
prostate cancer s/p 35 XRT sessions, last one 7 weeks ago
(diagnosed ___
rectal fistula
hypothroidism s/p thyroidectomy
right cataract
psoriasis, on light treatment
OSA on cpap
left hip bursitis s/p steroid injection
 
Social History:
___
Family History:
father- colon cancer
mother- diabetes, coronary artery disease
brother, sister- diabetes
 
Physical Exam:
VS: T 98.7 HR 73 BP 128/79 RR 20 Sat 97% RA
Gen: Well appearing man in NAD, appears younger than stated age
Eye: extra-occular movements intact, pupils equal round, 
reactive to light, sclera anicteric, not injected, no exudates
ENT: mucus membranes moist, no ulcerations or exudates
Neck: no thyromegally, JVD: ___
Cardiovascular: regular rate and rhythm, normal s1, s2, no 
murmurs, rubs or gallops
Respiratory: Clear to auscultation bilaterally, no wheezes, 
rales or rhonchi
Abd: Soft, mildly tender to palpation B lower quadrants, non 
distended, no heptosplenomegally, bowel sounds present
Extremities: No cyanosis, clubbing, edema, joint swelling
Neurological: Alert and oriented x3, CN II-XII intact, normal 
attention, sensation normal, speech fluent, DTR's 2+ patellar, 
achilles, biceps, triceps, brachioradialis bilaterally, babinski 
down-going bilaterally
Integument: Warm, moist, no rash or ulceration  
Psychiatric: appropriate, pleasant, not anxious
Hematologic: no cervical or supraclavicular LAD
 
Pertinent Results:
___ CXR:
Final Report
HISTORY: Fever, to evaluate for infectious process.
 
FINDINGS: In comparison with study of ___, there is little 
change and no
evidence of acute cardiopulmonary disease. Specifically, no 
evidence of
pneumonia. Some elevation of the right hemidiaphragm persists. 
The heart is
normal in size and there is no vascular congestion or pleural 
effusion.
 
The study and the report were reviewed by the staff radiologist.
.
.
ECG: NSR (79) nl axis/intervals, no acute st-t changes.
.
.
___ COLONOSCOPY:
Findings:  
Mucosa: Submucosal hemorrhage, petechiae, friability and pus 
with contact bleeding were noted in the distal rectum. Localized 
petechiae, erythema, friability, congestion and submucosal 
hemorrhage-very patchy with contact bleeding were noted in the 
splenic flexure, proximal descending colon and mid-sigmoid 
colon. Cold forceps biopsies were performed for histology at the 
splenic flexure and mid-sigmoid colon. 
.
Protruding Lesions A single sessile 3 mm polyp of benign 
appearance was found in the mid-sigmoid colon. A single-piece 
polypectomy was performed using a cold forceps. The polyp was 
completely removed. 
Impression: Submucosal hemorrhage, petechiae, friability and 
pus in the distal rectum Petechiae, erythema, friability, 
congestion and submucosal hemorrhage-very patchy in the splenic 
flexure, proximal descending colon and mid-sigmoid colon 
(biopsy)
Polyp in the mid-sigmoid colon (polypectomy)
.
Recommendations: Endoscopist will inform the patient by letter 
or telephone of the results
.
.
LABS:
___ 01:00PM BLOOD WBC-8.1# RBC-4.19* Hgb-13.2* Hct-38.2* 
MCV-91 MCH-31.7 MCHC-34.7 RDW-13.5 Plt ___
___ 01:00PM BLOOD WBC-5.5 RBC-3.89* Hgb-12.6* Hct-35.7* 
MCV-92 MCH-32.4* MCHC-35.3* RDW-12.8 Plt ___
___ 09:05AM BLOOD WBC-4.4 RBC-4.09* Hgb-12.7* Hct-38.0* 
MCV-93 MCH-31.1 MCHC-33.5 RDW-12.6 Plt ___
___ 01:00PM BLOOD Neuts-88.1* Lymphs-5.5* Monos-5.5 Eos-0.7 
Baso-0.2
___ 01:00PM BLOOD ___ PTT-27.5 ___
___ 05:35AM BLOOD Plt ___
___ 06:40PM BLOOD Plt ___
___ 09:05AM BLOOD Plt ___
___ 01:00PM BLOOD ESR-23*
___ 01:00PM BLOOD Glucose-95 UreaN-18 Creat-0.9 Na-138 
K-3.9 Cl-100 HCO3-28 AnGap-14
___ 05:35AM BLOOD Glucose-99 UreaN-10 Creat-1.0 Na-140 
K-3.9 Cl-100 HCO3-29 AnGap-15
___ 09:05AM BLOOD Glucose-68* UreaN-20 Creat-1.0 Na-142 
K-3.8 Cl-104 HCO3-27 AnGap-15
___ 01:00PM BLOOD ALT-21 AST-24 AlkPhos-76 TotBili-0.5
___ 05:35AM BLOOD Calcium-8.8 Phos-3.7 Mg-1.8
___ 05:35AM BLOOD CRP-75.1*
___ 01:06PM BLOOD Hgb-14.1 calcHCT-42
.
.
MICROBIOLOGY:

___ 07:15PM URINE Color-Yellow Appear-Clear Sp ___
___ 07:15PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.0 Leuks-NEG
___ 07:15PM URINE
.
Time Taken Not Noted     Log-In Date/Time: ___ 7:56 pm
      STOOL     CONSISTENCY: NOT APPLICABLE

                            **FINAL REPORT ___

   FECAL CULTURE (Final ___:    NO SALMONELLA OR SHIGELLA 
FOUND. 

   CAMPYLOBACTER CULTURE (Final ___:    NO CAMPYLOBACTER 
FOUND. 
.
.
___ 4:39 pm STOOL     CONSISTENCY: WATERY      Source: 
Stool. 

                            **FINAL REPORT ___

   OVA + PARASITES (Final ___: 
      NO OVA AND PARASITES SEEN. 
      This test does not reliably detect Cryptosporidium, 
Cyclospora or
      Microsporidium. While most cases of Giardia are detected 
by routine
      O+P, the Giardia antigen test may enhance detection when 
organisms
      are rare. 
.
.
___ 12:26 pm Influenza A/B by ___
      Source: Nasopharyngeal swab. 

                            **FINAL REPORT ___

   DIRECT INFLUENZA A ANTIGEN TEST (Final ___: 
      Greater than 400 polymorphonuclear leukocytes;. 
      Specimen inadequate for detecting influenza by ___ 
testing. 
      Interpret all negative results from this specimen with 
caution. 
      Negative results should not be used to discontinue 
precautions. 
      Refer to influenza culture results. 
      REPORTED BY PHONE TO ___ ON ___ AT 15:25. 

   DIRECT INFLUENZA B ANTIGEN TEST (Final ___: 
      Greater than 400 polymorphonuclear leukocytes;. 
      Specimen inadequate for detecting influenza by ___ 
testing. 
      Interpret all negative results from this specimen with 
caution. 
      Negative results should not be used to discontinue 
precautions. 
      Refer to influenza culture results. 

   Respiratory Viral Culture (Final ___: 
      No respiratory viruses isolated. 
      Culture screened for Adenovirus, Influenza A & B, 
Parainfluenza type
      1,2 & 3, and Respiratory Syncytial Virus.. 
      Detection of viruses other than those listed above will 
only be
      performed on specific request. Please call Virology at 
___
      within 1 week if additional testing is needed. 
.
.
___ 1:00 pm BLOOD CULTURE

   Blood Culture, Routine (Pending): 
.
.
___ 11:00 pm STOOL     CONSISTENCY: WATERY      Source: 
Stool. 

                            **FINAL REPORT ___

   FECAL CULTURE (Final ___:    NO SALMONELLA OR SHIGELLA 
FOUND. 

   CAMPYLOBACTER CULTURE (Final ___:    NO CAMPYLOBACTER 
FOUND. 

   OVA + PARASITES (Final ___: 
      NO OVA AND PARASITES SEEN. 
      This test does not reliably detect Cryptosporidium, 
Cyclospora or
      Microsporidium. While most cases of Giardia are detected 
by routine
      O+P, the Giardia antigen test may enhance detection when 
organisms
      are rare. 
                                   . 
      FEW POLYMORPHONUCLEAR LEUKOCYTES. 
      FEW RED BLOOD CELLS. 

   FECAL CULTURE - R/O VIBRIO (Final ___:    NO VIBRIO 
FOUND. 

   FECAL CULTURE - R/O YERSINIA (Final ___:    NO YERSINIA 
FOUND. 

   FECAL CULTURE - R/O E.COLI 0157:H7 (Final ___: 
      NO E.COLI 0157:H7 FOUND. 

   CLOSTRIDIUM DIFFICILE TOXIN A & B TEST (Final ___: 
      Feces negative for C.difficile toxin A & B by EIA. 
           (Reference Range-Negative). 
.
.
Time Taken Not Noted     Log-In Date/Time: ___ 7:57 pm
      URINE     Site: NOT SPECIFIED      TAKEN FROM ___. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    NO GROWTH. 

 
Brief Hospital Course:
___ with h/o prostate ca s/p xrt p/w rectal bleeding and fever.

# rectal bleeding - initial differential included radiation 
proctitis vs infectious process, though also considered 
diverticula, AVMs, polyps, or mass.  pt was initially treated 
with cipro/flagyl, will which were discontinued as per GI. 
. 
stool cultures were unremarkable.  pt developed a low grade 
fever, as below.  he underwent colonoscopy which revealed 
erythema, and friable mucosa of the colon, with pus.  given 
stable HCT, cessation of bleeding, and lack of fever off of 
antibiotics, no further intervention was felt necessary.  
. 
pt was instructed not to resume aspirin for 3 days after 
discharge.  he was instructed to follow-up with his PCP and with 
the GI service (who will call to schedule his appoinment) 
regarding his colonsocopy results.  the above plan was discussed 
via email with his PCP. 
.
# fever - pt with single fever, to 101 after admission.  blood, 
urine, and stool cultures were ultimately unremarkable.  
consideration was given to influenza, DFA was limited, but 
respiratory culture was negative.  after colonoscopy which 
demonstrated pus, fever was felt due to an infectious process. 
. 
after discscussion with GI service, decision was made not to 
discharge pt on antibiotics, given resolution of his fever, and 
symptoms as above.  additional cultures were sent at the time of 
colonoscopy, and will be followed by gastroenterology. 
. 
# OSA: continued CPAP.
# hypothyroid - continued levothyroxine.
# hyperlipidemia: continued simvastatin.
# HTN, benign - initially held home meds given ?bleeding, then 
resumed lisinopril only upon discharge.  pt will discuss 
restarting additional meds as needed with PCP.
.
# GERD: continued oral PPI. 
 
Medications on Admission:
Aspirin 325mg daily
Toprol 25mg daily
Lisinopril 20mg daily
hctz 12.5mg daily
Simvastatin 20mg daily
folate 400mcg daily
calcium citrate daily
omeprazole 20mg dialy
multivitamin daily
synthroid 88mcg 4 times per week, 100 mcg 3 timees per week
ocuvite daily
vitamin b12, does not know dose

 
Discharge Medications:
1. Lisinopril 20 mg Tablet Sig: One (1) Tablet PO once a day.  
2. Simvastatin 20 mg Tablet Sig: One (1) Tablet PO once a day.  
3. Omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO once a day.  
4. Folic Acid ___ mcg Tablet Sig: One (1) Tablet PO once a day.  

5. Calcium Citrate 250 mg Tablet Sig: One (1) Tablet PO once a 
day.  
6. Multivitamin     Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
7. Levothyroxine 88 mcg Tablet Sig: One (1) Tablet PO 4X/WEEK 
(___).  
8. Levothyroxine 100 mcg Tablet Sig: One (1) Tablet PO 3X/WEEK 
(___).  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
primary: 
infectious colitis

 
Discharge Condition:
Mental Status:Clear and coherent
Level of Consciousness:Alert and interactive
Activity Status:Ambulatory - Independent

 
Discharge Instructions:
you were admitted to the hospital with rectal bleeding and a 
single low fever.  your blood count was stable.  colonoscopy 
showed inflammation of your colon with some pus.  your fevers 
resolved without antibioticss.  after discussing your case with 
the gastroenterologist, they do not feel that you require 
antibiotics now. 
. 
the following changes were made to your medication regimen:
1. your aspirin was held.  because you take this purely for 
preventative reasons, you can restart this in 3 days after your 
discharge. 
2. your blood pressure was well controlled without medication 
while you were hospitalized.  this may have been because of your 
bleeding.  2 of your BP meds were held, and you may restart 
these after discussing there utility with your primary care 
physician (toprol and hctz).  your lisinopril was continued.
 
Followup Instructions:
___